US08563717B2
6-Amino-2-(butyloxy)-9-{[1-(3-methylbutyl)-3-piperidinyl]methyl}-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 24 from 2-(butyloxy)-8-(methyloxy)-9-(3-piperidinylmethyl)-9H-purin-6-amine and 1-bromo-3-methylbutane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-(3-piperidinylmethyl)-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CNCCC1)OC)N | C16H26N6O2
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
product | 6-Amino-2-(butyloxy)-9-{[1-(3-methylbutyl)-3-piperidinyl]methyl}-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1CN(CCC1)CCC(C)C)=O | C20H34N6O2
